US08013187B2
A mixture of 120 mg 3-cyclopentyl-2-iodo-2-cyclopenten-1-one, 80 mg 3-formylphenylboronic acid and 20 mg tetrakis(triphenylphosphine)palladium was stirred at 80° C. overnight in 8 ml toluene, 4 ml ethanol and 4 ml 2 N aqueous sodium carbonate. Then the reaction mixture was diluted with ethyl acetate, washed with brine, dried over anhydrous magnesium sulfate, and filtered. The filtrate was concentrated under reduced pressure and purified by column chromatography (silica gel, hexane/ethyl acetate=2:1) to yield 70 mg of 3-cyclopentyl-2-(3-formylphenyl)-2-cyclopenten-1-one. 3-cyclopentyl-2-(3-formylphenyl)-2-cyclopenten-1-one in benzene was stirred with one drop of acetic acid and 100 mg sodium triacetoxyborohydride at 70-80° C. for 2 hours. Then the reaction mixture was poured into saturated aqueous ammonium chloride, and extracted with ethyl acetate. The organic layer was washed with brine, dried over anhydrous magnesium sulfate, and filtered. The filtrate was concentrated under reduced pressure and purified by column chromatography (silica gel, hexane/ethyl acetate=2:1) to yield 40 mg of 3-cyclopentyl-2-(3-hydroxymethylphenyl)-2-cyclopenten-1-one, which was then condensed with hydroxylamine hydrochloride according to a procedure similar to that described in STEP 4 for Example 1 to afford 20 mg of 3-cyclopentyl-2-(3-hydroxymethylphenyl)-2-cyclopenten-1-one oxime as a solid. 1H NMR (CDCl3, 300 MHz): δ 8.75 (bs, 1H), 7.40-7.29 (m, 3H), 7.12 (d, J=7.2 Hz, 1H), 4.66 (s, 2H), 2.98 (m, 1H), 2.75 (m, 2H), 2.61 (m, 2H), 1.71 (m, 4H), 1.55 (m, 4H).

reactant | 3-cyclopentyl-2-iodo-2-cyclopenten-1-one | 120 mg | C1(CCCC1)C1=C(C(CC1)=O)I | C10H13IO
reactant | 3-formylphenylboronic acid | 80 mg | C(=O)C=1C=C(C=CC1)B(O)O | C7H7BO3
reactant | ethanol | 4 ml | C(C)O | C2H6O
reactant | sodium carbonate | 2 N, 4 ml | C([O-])([O-])=O.[Na+].[Na+]
solvent | toluene | 8 ml | C1(=CC=CC=C1)C | C7H8
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
catalyst | tetrakis(triphenylphosphine)palladium | 20 mg | C=1C=CC(=CC1)[P](C=2C=CC=CC2)(C=3C=CC=CC3)[Pd]([P](C=4C=CC=CC4)(C=5C=CC=CC5)C=6C=CC=CC6)([P](C=7C=CC=CC7)(C=8C=CC=CC8)C=9C=CC=CC9)[P](C=1C=CC=CC1)(C=1C=CC=CC1)C=1C=CC=CC1
product | 3-cyclopentyl-2-(3-formylphenyl)-2-cyclopenten-1-one | 70 mg | C1(CCCC1)C1=C(C(CC1)=O)C1=CC(=CC=C1)C=O | C17H18O2
